US04636512
Using the procedure of Step A of Example 7, a solution of 19.9 g of BOC-L-phenylalanine in 150 ml of methylene chloride and 20.6 ml of N-methyl-morpholine, 19.5 ml of isobutyl chloroformate in 75 ml of methylene chloride and 15.4 g of 2-amino-3-trifluoromethyl benzoic acid in 150 ml of methylene chloride and 8.3 ml of N-methyl-morpholine were reacted to obtain 14.5 g of 1,1-dimethylethyl N-[(S) 2-phenyl-1-[4-oxo-8-(trifluoromethyl)-4H-3,1-benzoxazin-2-yl]-ethyl]-carbamate melting at 145° C. and having a specific rotation of [α]D =-33.5°±2° (c=0.5% in CH3COOH).

reactant | BOC-L-phenylalanine | 19.9 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | 2-amino-3-trifluoromethyl benzoic acid | 15.4 g | NC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H6F3NO2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | N-methyl-morpholine | 20.6 ml | CN1CCOCC1 | C5H11NO
solvent | isobutyl chloroformate | 19.5 ml | ClC(=O)OCC(C)C | C5H9ClO2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | N-methyl-morpholine | 8.3 ml | CN1CCOCC1 | C5H11NO
product | 1,1-dimethylethyl N-[(S) 2-phenyl-1-[4-oxo-8-(trifluoromethyl)-4H-3,1-benzoxazin-2-yl]-ethyl]-carbamate | 14.5 g | C1(=CC=CC=C1)C[C@@H](C1=NC2=C(C(O1)=O)C=CC=C2C(F)(F)F)NC(OC(C)(C)C)=O | C22H21F3N2O4
